US07674822B2
To a solution of 3-hydroxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-allyl ester 2-methyl ester (3.2 g, 10.95 mmol) in DCM (50 mL) was added TEA (1.83 mL, 13.14 mmol), Tf2O (2.2 mL, 13.14 mL) and DMAP (67 mg, 0.55 mmol) at 0° C. The temperature was allowed to rise to room temperature and the resultant mixture was stirred for 4 hours, washed with aq. NaHCO3 and dried over MgSO4. The crude product was purified on CombiFlash column eluted with hexanes/EtOAc to give desire product, 3-trifluoromethanesulfonyloxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-allyl ester 2-methyl ester as a white solid (3.88g, 84%).

reactant | 3-hydroxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-allyl ester 2-methyl ester | 10.95 mmol, 3.2 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)C(=O)OCC=C)O | C14H12O5S
reactant | Tf2O | 2.2 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.55 mmol, 67 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-trifluoromethanesulfonyloxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-allyl ester 2-methyl ester | 3.88g, 84% | COC(=O)C1=C(C2=C(S1)C=C(C=C2)C(=O)OCC=C)OS(=O)(=O)C(F)(F)F | C15H11F3O7S2
